US06262103B1
Step 1: 1-Cyano-6,6-dimethyl-3(2-methylprop-1-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a stirred solution of 1-cyano-6,6-dimethyl-3-methanesulphonyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (1.5 g, 5.3 mmol) in THF (15 mL) at −10° C. was added isobutylmagnesium chloride. After 1 h the cooling bath was removed and the mixture stirred at room temperature for 2 h. After this time the mixture was partitioned between EtOAc (20 mL) and water (20 mL). The organic layer was separated, dried (Na2SO4) and evaporated. The residue was chromatographed on silica gel, eluting with petrol: EtOAc (6:1), to give the title compound (526 mg, 38%) as an orange oil. 1HNMR (360 MHz, CDCl3) δ 0.97 (6H, d, J=6.6 Hz), 1.08 (6H, s), 1.94-2.02 (1H, m), 2,42 (2H, s), 2.85 (2H, s), 3.16 (2H, d, J=7.1 Hz).

reactant | 1-cyano-6,6-dimethyl-3-methanesulphonyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 5.3 mmol, 1.5 g | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)S(=O)(=O)C | C12H13NO3S2
reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-Cyano-6,6-dimethyl-3(2-methylprop-1-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 526 mg, 38% | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)CC(C)C | C15H19NOS
